US04000144
280 g of phosphorus pentachloride are added in portions over the course of 2 hours to a solution of 200 g of 3-oxo-hexanoic acid ethyl ester in 200 ml of absolute benzene whilst stirring at 0° C. 200 ml of water are then added dropwise with intense cooling so that the temperature never rises above 0° C. The mixture is stirred for a further 12 hours at 0° C. The organic phase is then separated off, washed with twice 100 ml of ice-cold 2 N sodium hydroxide solution and with twice 100 ml of water, dried over sodium sulphate and evaporated in vacuo. Fractional distillation of the evaporation residue gives, in the fraction boiling at 98°-102° C (20 mm), crude 3-chloro-2-hexenoic acid ethyl ester, which is used direct for further conversion.

reactant | phosphorus pentachloride | 280 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-oxo-hexanoic acid ethyl ester | 200 g | C(C)OC(CC(CCC)=O)=O | C8H14O3
reactant | water | 200 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-chloro-2-hexenoic acid ethyl ester | C(C)OC(C=C(CCC)Cl)=O | C8H13ClO2
